US08476297B2
Step 1. N-Phenethyl-4-(trifluoromethyl)benzamide
To a solution of phenylethylamine (14.0 g, 14.6 mL, 0.11 mol) and DIEA (20.1 mL, 0.11 mol in DCM (500 mL) at 0° C. was added 4-(trifluoromethyl)benzoyl chloride (17.2 mL, 0.11 mol) dropwise. After the addition was completed, the reaction mixture was stirred at 0° C. and warmed up itself to RT for 16 h. An off-white solid precipitated was observed. The off-white solid was collected by filtration. The solid was then washed with DCM (2×50 mL), and dried under vacuum to give the title compound as a white solid. MS (ESI, positive ion) m/z: 294 (M+H).

reactant | phenylethylamine | 0.11 mol, 14.6 mL, 14.0 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(trifluoromethyl)benzoyl chloride | 0.11 mol, 17.2 mL | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | N-Phenethyl-4-(trifluoromethyl)benzamide | C(CC1=CC=CC=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C16H14F3NO
